US05326760
(a) 4-(1,3-Dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)-2-(R)-[[3-methyl-1-(S)-[[(pyridin-3-ylmethyl)amino]carbonyl]butyl]amino]-butanoic acid-1,1-dimethylethyl ester
100 mg of N-[(R)-1-[(1,1-dimethylethoxy)carbonyl]-3-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)propyl]-L-leucine, prepared as in Example L, was added to 2.5 mL of DMF. 39.2 mg of hydroxybenzotriazol.H2O was added to the mixture followed by 0.026 mL of (pyridin-3-ylmethyl)amine. The mixture was cooled to 0° C. and 52.8 mg dicyclohexylcarbodiimide was added. The mixture was warmed to 23° C. and stirred for 24 h. The solvents were removed by evaporation and the resultant residue was diluted with ethyl acetate. The mixture was extracted with a saturated solution of sodium bicarbonate and the organic layer was separated, dried (MgSO4), and filtered. The solvent was removed by evaporation to afford the title compound; 139 mg.

reactant | N-[(R)-1-[(1,1-dimethylethoxy)carbonyl]-3-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)propyl]-L-leucine | 100 mg | CC(C)(OC(=O)[C@@H](CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)N[C@@H](CC(C)C)C(=O)O)C | C26H32N2O6
reactant | hydroxybenzotriazol | 39.2 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | (pyridin-3-ylmethyl)amine | 0.026 mL | N1=CC(=CC=C1)CN | C6H8N2
reactant | dicyclohexylcarbodiimide | 52.8 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | H2O | O | H2O
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 4-(1,3-Dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)-2-(R)-[[3-methyl-1-(S)-[[(pyridin-3-ylmethyl)amino]carbonyl]butyl]amino]-butanoic acid-1,1-dimethylethyl ester | CC(C)(C)OC([C@@H](CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)N[C@@H](CC(C)C)C(=O)NCC=3C=NC=CC3)=O | C32H38N4O5
